US04242510
o-Benzenedithiol (7.1 g.) was allowed to react with ethyl 2-chloroacetyl-2-methoxyiminoacetate (11.4 g.) in a similar manner to that of Example A-(i) to give ethyl 2-(1,4-benzodithiin-2-yl)-2-methoxyiminoacetate (syn isomer, 1.0 g.), yellow crystals, mp. 78° to 81° C.

reactant | o-Benzenedithiol | 7.1 g | C=1(C(=CC=CC1)S)S | C6H6S2
reactant | ethyl 2-chloroacetyl-2-methoxyiminoacetate | 11.4 g | ClCC(=O)C(C(=O)OCC)=NOC | C7H10ClNO4
product | ethyl 2-(1,4-benzodithiin-2-yl)-2-methoxyiminoacetate | 1.0 g | S1C(=CSC2=C1C=CC=C2)C(C(=O)OCC)=NOC | C13H13NO3S2
